US06114532
4-[(5-(N-ethoxycarbonylmethylaminocarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-cyclohexyloxycarbonyl-benzamidine
Prepared analogously to Example 97 from 4-[(5-(N-ethoxycarbonylmethylaminocarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride and cyclohexyl chloroformate in tetrahydrofuran/water.

reactant | 4-[(5-(N-ethoxycarbonylmethylaminocarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride | Cl.C(C)OC(=O)CNC(=O)CN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12
reactant | cyclohexyl chloroformate | ClC(=O)OC1CCCCC1 | C7H11ClO2
solvent | tetrahydrofuran water | O1CCCC1.O
product | 4-[(5-(N-ethoxycarbonylmethylaminocarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-cyclohexyloxycarbonyl-benzamidine | C(C)OC(=O)CNC(=O)CN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=NC(=O)OC3CCCCC3)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C38H41N7O7S
